US06958347B2
Palladium acetate (826 mg, 3.68 mol) was added to a suspension of silver carbonate (10.1 g, 36.8 mmol), triphenylphosphine (1.93 g, 7.36 mmol), and N-ethyl-2-iodo-4-nitro-N-phenyl-benzamide (7.29 g, 18.4 mmol) in acetonitrile (92 ml). The reaction mixture was heated to reflux for 30 minutes and cooled to 23° C. The mixture was filtered through a plug of celite, and the filter cake was washed with ethyl acetate (100 ml) and diethyl ether (100 ml). The combined filtrates were washed with saturated sodium chloride (100 ml), dried over anhydrous sodium sulfate, and were concentrated. The residue was purified by flash column chromatography (150 ml diethyl ether followed by 150 ml of ethyl acetate) afforded 5-ethyl-9-nitro-5H-phenanthridin-6-one I-1d (2.87 g, 58%) as a yellow solid.

reactant | triphenylphosphine | 7.36 mmol, 1.93 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-ethyl-2-iodo-4-nitro-N-phenyl-benzamide | 18.4 mmol, 7.29 g | C(C)N(C(C1=C(C=C(C=C1)[N+](=O)[O-])I)=O)C1=CC=CC=C1 | C15H13IN2O3
solvent | acetonitrile | 92 ml | C(C)#N | C2H3N
catalyst | Palladium acetate | 3.68 mol, 826 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | silver carbonate | 36.8 mmol, 10.1 g | C([O-])([O-])=O.[Ag+2]
product | 5-ethyl-9-nitro-5H-phenanthridin-6-one | C(C)N1C=2C=CC=CC2C2=CC(=CC=C2C1=O)[N+](=O)[O-] | C15H12N2O3
